Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers, abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with a history of primary sclerosing 
cholangitis dx in ___ with no hospital admissions since 
diagnosis sent by his GI doctor today for admission for 
suspicion for infectious cholangitis. The patient reports that 
he has felt more tired over the past three weeks, and has had 
intermittent fevers as high as ___ F over the last two weeks 
associated with night sweats and chills. To treat the fevers he 
took ibuprofen with improvement of the symptoms. He also reports 
intermittent post-prandial sharp RUQ pain which has gone away on 
its own with time, and seems to only occur with large meals as 
well as laying on the right side. He reports that over the same 
time period, he has noted that his abdomen was becoming more 
distended. He denies N/V/D, Denies CP or SOB, has had a cough 
over the same time period which he describes as dry.  
He was seen by his outpatient Hepatologist Dr. ___ on 
___. Given the description of the above events over the 
past several weeks, he was referred to the Emergency Department 
to obtain blood cultures x 2, repeat MRCP to assess ___ 
abscess or severe strictures.  

Vitals on arrival to ED: 98.1 109 140/90 16 100% RA  
Exam was significant for: A&O3, afebrile. NAD. LS C&Ex2, Heart 
RRR. Abd Soft, slightly tender in RUQ without guarding, - ___ 
sign. No peripheral edema. No scleral icterus  
Patient was given: 2L NS, 600mg ibuprofen, 1gm ceftriaxone.  
CXR was obtain and showed no acute cardiopulmonary process.  
Labs notable for lactate 3.6 which improved to 1.0 after 2L NS.  

Vitals prior to transfer: T98.7, HR 82, BP 112/69, RR 16, PUlse 
Ox 100% on RA.  
ROS: Please see above.  

 
Past Medical History:
-CCY ___  
-Diagnosed with Primary Sclerosing Cholangitis by ERCP and MRCP  

in ___ and had a bile duct stent in the past.  
-Colonoscopy ___  
-Migraines once every 3 months right side  

 
Social History:
___
Family History:
FAMILY HISTORY:  
Mother: thyroidectomy  
Father: well  
Grandfather: prostate CA  
Grandmother: colon cancer  

 
Physical Exam:
Admission Exam:
VS: 99.1, 121/68, 76, 18, 99% on RA.  
General: Pleasant affect, laying in bed, breathing non-labored 
in NAD.  
HEENT: EOMI, PERRL, Sclera anictetic.  
Neck: No elevated JVD.  
CV: RRR, S1 and S2 present, no murmurs, rubs or gallops.  
Lungs: Clear to auscultation bilaterally.  
Abdomen: soft, mildly tender to deep palpation in RUQ, 
non-distended, no rebound or guarding, liver edge palpated 
approxiamtely 3 fingerbreadths below the costal margin. 
Splenomegaly also appreciated.  
Ext: No lower extremity edema.  
Neuro: CN II-XII intact, strength grossly normal.  
Skin: Horizontal scar, well healed at right upper quadrant from 
prior cholecystectomy.  

Discharge Exam:
Vitals: T:97.5 BP:110/66 P:69 R:18 O2:100% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, liver border appreciated 2 
finger widths below rib cage. Spleen not palpable. 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions

 
Pertinent Results:
Admission Labs:

___ 06:31PM BLOOD WBC-9.3 RBC-4.49* Hgb-12.0* Hct-39.2* 
MCV-87 MCH-26.7 MCHC-30.6* RDW-14.8 RDWSD-47.1* Plt ___
___ 06:31PM BLOOD ___ PTT-38.7* ___
___ 06:31PM BLOOD Glucose-103* UreaN-8 Creat-0.7 Na-138 
K-3.3 Cl-99 HCO3-25 AnGap-17
___ 06:31PM BLOOD ALT-79* AST-88* LD(LDH)-169 AlkPhos-578* 
TotBili-2.8* DirBili-1.9* IndBili-0.9
___ 06:31PM BLOOD Lipase-27
___ 06:31PM BLOOD Albumin-3.5
___ 06:31PM BLOOD Hapto-281*
___ 06:40PM BLOOD Lactate-3.6*
___ 10:39PM BLOOD Lactate-1.0

Microbiology:
Blood cultures x 2 ___: No growth (final).

Imaging: 
CXR ___:
Lung volumes are low.  Heart size is normal.  Mediastinal and 
hilar contours are unremarkable.  Lungs are clear.  Pulmonary 
vasculature is normal. No pleural effusion or pneumothorax is 
identified.  No acute osseous abnormality is detected. 

MRCP ___:
IMPRESSION:  
1.  No definite findings of cholangitis.  Mild enhancement in 
one short 
segment of the right posterior duct branch involves the same 
branch but is substantially less extensive than on the study 
from ___. 
2.  Enlarged cirrhotic liver and marked splenomegaly are larger 
compared to ___. 
3.  Irregular intrahepatic biliary ducts are compatible with 
primary 
sclerosing cholangitis.  Two focal areas of ectatic biliary duct 
in the left lobe are new. 
4.  Lymphadenopathy is likely reactive in setting of 
inflammatory disease. 

Discharge Labs:
___ 07:30AM BLOOD WBC-4.0 RBC-4.23* Hgb-11.2* Hct-36.6* 
MCV-87 MCH-26.5 MCHC-30.6* RDW-14.6 RDWSD-45.9 Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-91 UreaN-8 Creat-0.6 Na-139 K-4.0 
Cl-102 HCO3-27 AnGap-14
___ 07:30AM BLOOD ALT-68* AST-80* AlkPhos-529* TotBili-1.9*
___ 07:30AM BLOOD Calcium-9.1 Phos-4.6* Mg-2.___ year old male with primary sclerosing cholangitis admitted 
after two weeks of fevers, intermittent RUQ pain, concerning for 
cholangitis.  
 
# Fever: Patient presented with fever to ___ over three weeks 
prior to admission associated with right upper quadrant pain 
during meals. Differential included ascending infectious 
cholangitis versus hepatic abscess vs biliary sludge (as patient 
is s/p cholecystectomy). Patient received one dose CTX in ED and 
two doses Unasyn on floor-antibiotics switched to CTX/Flagyl on 
___. Patient's aminotransferases, alk phos stable on ___, 
tbili down to 2.1 from 3.1. Blood cultures showed no growth. 
MRCP on ___ showed no evidence of cholangitis. No obvious 
source of infection, but patients symptoms, fevers improved on 
antibiotics, so discharged patient on Augmentin 875-125mg PO BID 
for total of ___irrhosis Secondary to Primary Sclerosing Cholangitis: 
Complicated by grade II esophageal varices ___. 
Aminotransferases, alk phos at baseline on admission, tbili 
slightly elevated. Bilirubin downtrending at discharge 
(3.1->2.1->1.9). Patient was continued on home ursodiol and 
nadolol.   
  
# Anemia: Patien't Hb slightly decreased on admission. Per OMR 
records, patient's Hb downtrending from baseline of 15 since 
early ___. No evidence of acute bleed but iron studies 
performed out of concern for oozing from portal hypertensive 
gastropathy given history of cirrhosis. Iron slighlty low, but 
TIBC, ferrtin normal. Patient's hemoglobin stable throughout 
admission, should be followed up as outpatient.  

Transitional Issues:
-Patient should complete 14 day course of Augmentin (last day 
___.
-Patient presented with daily fevers, intermittent RUQ pain, 
improved with antibiotics. Source of infection not identified. 
Should have close follow up with outpatient hepatologist.
-Tbili elevated on admission to 3.1, improved to 1.9 on day of 
discharge. ___ consider follow up LFT's as outpatient.
CODE: Full Code 
CONTACT: ___ (sister): ___ (international call, 
country code is 48). 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ursodiol 600 mg PO QAM 
2. Ursodiol 300 mg PO QPM 
3. Nadolol 40 mg PO DAILY 
4. Sumatriptan Succinate 100 mg PO Q24H:PRN headache.  

 
Discharge Medications:
1. Nadolol 40 mg PO DAILY 
2. Ursodiol 600 mg PO QAM 
3. Ursodiol 300 mg PO QPM 
4. Sumatriptan Succinate 100 mg PO Q24H:PRN headache.  
5. Amoxicillin-Clavulanic Acid ___ mg PO BID 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
twice a day Disp #*22 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Fevers

Secondary Diagnosis: 
Primary Sclerosing Cholangitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. 
You were admitted with fevers, night sweats and abdominal pain, 
concerning for cholangitis (infection in your biliary tract) or 
abscess in your liver. Your chest X ray, urinalysis and blood 
cultures showed no signs of infection, however. We treated you 
with antibiotics and your fevers and night sweats improved. You 
underwent a special type of MRI to look closely at your biliary 
system, and it showed no evidence of cholangitis or abscess. 
Since you have improved on antibiotics, the liver doctors would 
___ to continue taking them at home. You should complete a 
14 day course of Augmentin (last day ___ and follow up with 
Dr. ___ one week of discharge (see appointment below).

If you develop fevers or worsening abdominal pain, please 
contact your liver doctor immediately or seek care in the 
emergency department.

It was wonderful meeting you and we wish you all the best with 
your recovery.

Sincerely, 
Your Medical Team 
 
Followup Instructions:
___